US08440666B2
4-Bromo-2-{[1-(pyridin-4-ylmethyl)-1H-tetrazol-5-yl]methyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)ethanethioamide (38 mg, 0.077 mmol) in dichloromethane (1 mL) was mixed with azidotrimethylsilane (41 μL, 0.308 mmol) and iron trichloride (30 mg, 0.185 mmol) at room temperature and stirred at room temperature for 17 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/methanol=50/1) to give the desired product (9 mg, 24% yield).

reactant | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)ethanethioamide | 0.077 mmol, 38 mg | BrC1=C(C=NN(C1=O)CC(NCC1=CC=NC=C1)=S)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28BrN5OS
reactant | azidotrimethylsilane | 0.308 mmol, 41 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | iron trichloride | 0.185 mmol, 30 mg | [Fe](Cl)(Cl)Cl
product | 4-Bromo-2-{[1-(pyridin-4-ylmethyl)-1H-tetrazol-5-yl]methyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 9 mg, 24% yield | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CC2=NN=NN2CC2=CC=NC=C2)=O | C22H27BrN8O
